* Z:\mnt\design.r\spice\examples\3437.asc
XU1 N002 IN N001 0 N003 OUT N005 N006 MP_01 IN LT3437
L1 N002 OUT 68µ
D1 0 N002 1N5817
D2 OUT N001 1N4148
C1 OUT 0 50µ
V1 IN 0 40
R1 OUT N006 165K
R2 N006 0 100K
C2 OUT N003 .1µ
C3 N005 N004 1500p
R3 N004 0 10K
C4 OUT N006 27p
C5 N001 N002 .1µ
Rload OUT 0 13.2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LT3437.sub
.backanno
.end
